US04443444
A mixture of 7-[2-(2-propynyloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (11.2 g) and conc. hydrochloric acid (2.3 g) in methanol (80 ml) was stirred for 3 hours at ambient temperature. The reaction mixture was poured into water (120 ml) and adjusted to pH 3.5 with 10% aqueous solution of sodium hydroxide and washed with ethyl acetate. The aqueous layer was adjusted to pH 5.0 with 10% aqueous solution of sodium hydroxide. After removing the solvent under reduced pressure, the aqueous solution was adjusted to pH 4.0 with 10% aqueous hydrochloric acid under ice-cooling. The solution was subjected to column chlomatography on macroporous non-ionic adsorption resin "Diaion HP-20:" (Trademark: prepared by Mitsubishi Chemical Industries) and eluted with 10% aqueous solution of isopropyl alcohol. The fractions containing the objected compound were concentrated and lyphylized to give 7-[2-(2-propynyloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)- 3-cephem-4-carboxylate (syn isomer) (5.3 g).

reactant | 7-[2-(2-propynyloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 11.2 g | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1)NC=O | C22H18N6O6S2
reactant | hydrochloric acid | 2.3 g | Cl | ClH
reactant | water | 120 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 7-[2-(2-propynyloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)- 3-cephem-4-carboxylate | 5.3 g | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1)N | C21H18N6O5S2
